US06225316B1
e) N-(3,5 -Bis-trifluoromethyl-benzyl)-N-methyl-3-o-tolyl-isonicotinamide hydrochloride (1:1)
To a solution of 440 mg N-(3,5-bis-trifluoromethyl-benzyl)-N-methyl-3-o-tolyl-isonicotinamide in 5 ml diethyl ether were added 5 ml 3 N hydrochloric acid solution in diethyl ether. After stirring for 10 min at room temperature, the solution was evaporated to dryness, dissolved in 3 ml diethyl ether and stirred for 1 h at −10° C. Filtration of the suspension afforded 376 mg (79%) of the title compound as white crystals. M.p. 186-188° C.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-N-methyl-3-o-tolyl-isonicotinamide | 440 mg | FC(C=1C=C(CN(C(C2=C(C=NC=C2)C2=C(C=CC=C2)C)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H18F6N2O
reactant | hydrochloric acid | 3 N, 5 ml | Cl | ClH
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | N-(3,5 -Bis-trifluoromethyl-benzyl)-N-methyl-3-o-tolyl-isonicotinamide hydrochloride | 376 mg, 79% | Cl.FC(C=1C=C(CN(C(C2=C(C=NC=C2)C2=C(C=CC=C2)C)=O)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C23H18F6N2O.ClH/c1-14-5-3-4-6-18(14)20-12-30-8-7-19(20)21(32)31(2)13-15-9-16(22(24,25)26)11-17(10-15)23(27,28)29;/h3-12H,13H2,1-2H3;1H
